US07166621B2
1-(1,1-Dimethyl-2-propynyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane (1.0 g) in dry tetrahydrofuran (10 ml) was cooled to −50° C. under an atmosphere of nitrogen with stirring and a solution of n-butyl lithium (2.0 ml, 2.5M solution in hexanes) was added dropwise over 2 minutes. The mixture was stirred for 0.25 hour at −50° C., allowed to warm to −20° C. then acetaldehyde (0.22 g) in tetrahydrofuran (2 ml) was added dropwise. The reaction was stirred at −20° C. for 1.5 hours, allowed to warm to ambient temperature over 1 hour and treated with water. The product was extracted with ethyl acetate (three times) and the extracts were combined, washed with water (twice) then dried over magnesium sulphate and evaporated under reduced pressure to give (2-hydroxy-5-methylhex-3-yn-5-yl)- 2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane,1.06 g, as a yellow liquid.

reactant | 1-(1,1-Dimethyl-2-propynyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | 1.0 g | CC(C#C)(C)N1[Si](CC[Si]1(C)C)(C)C | C11H23NSi2
reactant | n-butyl lithium | 2.5M, 2.0 ml | C(CCC)[Li]
reactant | acetaldehyde | 0.22 g | C(C)=O | C2H4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (2-hydroxy-5-methylhex-3-yn-5-yl)- 2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | OC(C)C#CC(C)(C)N1[Si](CC[Si]1(C)C)(C)C | C13H27NOSi2
